US05310895
After 1 g (2.7 mmols) of 5'-O-acetyl-3'-deoxy-3'-bromoadenosine was added to 10 ml of pyridine, 340 mg (1.1 eq.) of methanesulfonyl chloride was added to the mixture. The mixture was stirred at room temperature for 30 minutes and pyridine was distilled off under reduced pressure. The residue was added to 30 ml of water followed by extraction twice with 30 ml of chloroform. After the organic solvent was washed with water and then dried over magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography to give 1.09 g (yield, 90%) of 2'-O-mesyl-5'-O-acetyl-3'-deoxy-3'-bromoadenosine.

reactant | 5'-O-acetyl-3'-deoxy-3'-bromoadenosine | 2.7 mmols, 1 g | C(C)(=O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)Br | C12H14BrN5O4
reactant | methanesulfonyl chloride | 340 mg, 1.1 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2'-O-mesyl-5'-O-acetyl-3'-deoxy-3'-bromoadenosine | 1.09 g, 90% | S(=O)(=O)(C)O[C@H]1[C@@H](O[C@@H]([C@H]1Br)COC(C)=O)N1C=NC=2C(N)=NC=NC12 | C13H16BrN5O6S
